US07192950B2
2-[9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-6,7-dihydro-9H-5-thia-8-aza-benzocyclohepten-8-yl]-N-(1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide
prepared by reaction of 2-bromoacetyl bromide with rac-1,2,3,4-tetrahydro-naphthalen-1-ylamine and 9-(3,4-dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene.

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | rac-1,2,3,4-tetrahydro-naphthalen-1-ylamine | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | 9-(3,4-dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene | COC=1C=C(CC2NCCSC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C20H25NO4S
product | 2-[9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-6,7-dihydro-9H-5-thia-8-aza-benzocyclohepten-8-yl]-N-(1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide | COC=1C=C(CC2N(CCSC3=C2C=C(C(=C3)OC)OC)CC(=O)NC3CCCC2=CC=CC=C32)C=CC1OC | C32H38N2O5S
